* Subcircuit 3bit_DAC
.subckt 3bit_DAC /vrefh /vrefl /d0 /d1 /d2 /vdd /vout 
* c:\fossee\esim\library\subcircuitlibrary\3bit_dac\3bit_dac.cir

.options wnflag=1

.include 2bit_DAC.sub
.include switch.sub
x1 /vrefh net-_x1-pad2_ /d0 /d1 /vdd net-_x1-pad6_ 2bit_DAC
x2 net-_x1-pad2_ /vrefl /d0 /d1 /vdd net-_x2-pad6_ 2bit_DAC
x3 /d2 /vdd net-_x1-pad6_ net-_x2-pad6_ /vout switch
* Control Statements

.ends 3bit_DAC
